US05270329
Preparation of N[[(4-chlorophenyl)amino]carbonyl]-1,3-benzodioxole-5-sulfonamide
To a solution of 26.9 g of 1,3-benzodioxole-5-sulfonamide in 100 ml of acetone was added 150 ml of a 1N sodium hydroxide solution. A solution of 26.4 g of 4-chlorophenylisocyanate in 85 ml of acetone was added to the reaction mixture with stirring. After stirring at room temperature for 18 hours, the reaction mixture was filtered and 150 ml of 1N hydrochloric acid were added to the filtrate, thereby providing a precipitate. One liter of water was added, and the solid was recovered by filtration to provide the desired title product in 75% yield.

reactant | 1,3-benzodioxole-5-sulfonamide | 26.9 g | O1COC2=C1C=CC(=C2)S(=O)(=O)N | C7H7NO4S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 4-chlorophenylisocyanate | 26.4 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | water | One liter | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 85 ml | CC(=O)C | C3H6O
product | N[[(4-chlorophenyl)amino]carbonyl]-1,3-benzodioxole-5-sulfonamide | 75% yield | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=CC2=C(OCO2)C=C1 | C14H11ClN2O5S
